US07183306B2
A mixture of N-(2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea (250 mg) and mCPBA (326 mg) in CH2Cl2 (10 ml) was stirred for 18 hrs. sat. NaHCO3 and CH2Cl2 was added. Aqueous layer was separated and extracted. The combined organic layer was washed with sat. NaHCO3 (twice), dried and evaporated to give 207 mg (79.9%) of crude product. The crude product was column chromatographed by preparative TLC to give 207 mg (80%) of N-(2-{4-[1-[4-(methylsulfinyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea as an amorphous.

reactant | N-(2-{4-[1-[4-(methylthio)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea | 250 mg | CSC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(OCCNC(=O)N)C=C1)C(F)(F)F | C20H19F3N4O2S
reactant | mCPBA | 326 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-{4-[1-[4-(methylsulfinyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethyl)urea | 207 mg, 80% | CS(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(OCCNC(=O)N)C=C1)C(F)(F)F | C20H19F3N4O3S
